US07459448B2
{3-[2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-9-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester (I-39)
In a manner similar to that described for Method O, 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) and tert-butyl prop-2-ynylcarbamate were converted to I-39 (31%): HRMS Calcd. for C28H29N5O5: 516.2246, Found 516.2244.

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | tert-butyl prop-2-ynylcarbamate | C(C#C)NC(OC(C)(C)C)=O | C8H13NO2
product | {3-[2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-9-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1)=O | C28H29N5O5
